US08580957B2
To a solution of (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 43) (34 mg, 0.065 mmol) in tetrahydrofuran (THF) (3 mL) was added TBAF (1M in THF, 0.085 mL, 0.085 mmol). The resulting mixture was stirred at room temperature for 30 min, and then was concentrated in vacuo. The residue was dissolved in a 1:1 (MeOH/DMSO) mixture (1 mL) and purified via MDAP (modifier: formic acid). The appropriate fractions were combined and concentrated under reduced pressure to give 2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(5-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-1,2,3-triazol-1-yl)ethanol (19 mg, 0.045 mmol, 69%) as a colourless oil

reactant | (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO[Si](C)(C)C(C)(C)C)NC1=NC=C(C=C1)C)C | C28H40N6O2Si
reactant | TBAF | 0.085 mmol, 1M, 0.085 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-(4-{(2S,4R)-1-acetyl-2-methyl-4-[(5-methyl-2-pyridinyl)amino]-1,2,3,4-tetrahydro-6-quinolinyl}-1H-1,2,3-triazol-1-yl)ethanol | 0.045 mmol, 19 mg, 69% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO)NC1=NC=C(C=C1)C)C | C22H26N6O2
